US06603008B1
4-Bromo-2-chloro-N-(2,2-diethoxyethyl)benzamide (Step 1).
To a suspension of 2-chloro-4-bromobenzoic acid (10.0 g, 42.47 mmol) in CH2Cl2 (1000 mL) was added aminoacetaldehyde diethyl acetal (5.1 mL, 46.72 mmol) and WSC (9.77 g, 50.96 mmol) at room temperature, and stirred for 4 hours. The mixture was washed with water (100 mL), dried over MgSO4. Removal of the solvent, gave title compound (14.88 g, 100% yield).

reactant | 2-chloro-4-bromobenzoic acid | 42.47 mmol, 10.0 g | ClC1=C(C(=O)O)C=CC(=C1)Br | C7H4BrClO2
reactant | aminoacetaldehyde diethyl acetal | 46.72 mmol, 5.1 mL | C(C)OC(CN)OCC | C6H15NO2
reactant | WSC | 50.96 mmol, 9.77 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 1000 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2-chloro-N-(2,2-diethoxyethyl)benzamide | 14.88 g, 100% yield | BrC1=CC(=C(C(=O)NCC(OCC)OCC)C=C1)Cl | C13H17BrClNO3
